US07482341B2
N-[6-(3-Chloro-benzyloxymethyl)-pyridin-2-yl]-4-fluoro-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(3-chloro-benzyloxymethyl)-pyridin-2-ylamine (0.08 g) and 4-fluoro-3-(trifluoromethyl)-benzenesulfonyl chloride (0.092g) as a light yellow gum (0.088 g). MS (ESI−): 472.8 ([M−H]−).

reactant | 6-(3-chloro-benzyloxymethyl)-pyridin-2-ylamine | 0.08 g | ClC=1C=C(COCC2=CC=CC(=N2)N)C=CC1 | C13H13ClN2O
reactant | 4-fluoro-3-(trifluoromethyl)-benzenesulfonyl chloride | 0.092g | FC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3ClF4O2S
product | N-[6-(3-Chloro-benzyloxymethyl)-pyridin-2-yl]-4-fluoro-3-trifluoromethyl-benzenesulfonamide | ClC=1C=C(COCC2=CC=CC(=N2)NS(=O)(=O)C2=CC(=C(C=C2)F)C(F)(F)F)C=CC1 | C20H15ClF4N2O3S
